US07977338B2
A mixture of 4.4 g of 4-iodophenylacetic acid, 2.98 g of benzoimidazole, 197 mg of trans,trans-dibenzylideneacetone, 3.33 g of 1,10-phenanthroline, 211 mg of copper (I) trifluoromethanesulfonate benzene complex and 6 g of Cs2CO3 in 12 ml of xylene is stirred for 88 hours at 125° C. The mixture obtained is allowed to cool to rt and concentrated in vacuo. The concentration residue obtained is dissolved in 1N NaOH aqueous solution and the mixture obtained is extracted with EtOAc. The pH of the aqueous layer obtained is adjusted to acidic pH by addition of 1N HCl aqueous solution. A precipitate forms and is collected by vacuum filtration (batch 1) is collected by vacuum filtration. The aqueous phase from the filtrate obtained is extracted with CH2Cl2. The organic phase is dried (Na2SO4), filtered and concentrated. The concentration residue obtained (batch 2) is combined with batch 1 and triturated in Et2O. 3.58 g of (4-benzoimidazol-1-yl-phenyl)-acetic acid are obtained.

reactant | 4-iodophenylacetic acid | 4.4 g | IC1=CC=C(C=C1)CC(=O)O | C8H7IO2
reactant | benzoimidazole | 2.98 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 1,10-phenanthroline | 3.33 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 1N | Cl | ClH
solvent | xylene | 12 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | NaOH | 1N | [OH-].[Na+]
catalyst | trans,trans-dibenzylideneacetone | 197 mg | C(/C1=CC=CC=C1)=C\C(=O)/C=C/C1=CC=CC=C1 | C17H14O
product | (4-benzoimidazol-1-yl-phenyl)-acetic acid | 3.58 g | N1(C=NC2=C1C=CC=C2)C2=CC=C(C=C2)CC(=O)O | C15H12N2O2
